US07737145B2
A solution of 2,2,3,3,4,4,4-heptafluorobutanol (5.7 g, 28.5 mmol) in DMF (100 mL) was stirred and cooled to −5° C. as sodium hydride (0.72 g, 30 mmol) was added. After 1 h at −5° C., the reaction was treated with 4-fluoronitrobenzene (4.1 g, 29 mmol). The reaction was allowed to warm to ambient temperature, concentrated, and slurried in methylene chloride (200 mL). The slurry was washed with an 1 N aqueous potassium hydroxide solution (2×) and brine solution, dried over basic alumina, treated with charcoal, filtered, and concentrated to give 4-(2′,2′,3′,3′,4′,4′,4′-heptafluorobutanoxy)nitrobenzene.

reactant | 2,2,3,3,4,4,4-heptafluorobutanol | 28.5 mmol, 5.7 g | FC(CO)(C(C(F)(F)F)(F)F)F | C4H3F7O
reactant | sodium hydride | 30 mmol, 0.72 g | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 29 mmol, 4.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(2′,2′,3′,3′,4′,4′,4′-heptafluorobutanoxy)nitrobenzene | FC(COC1=CC=C(C=C1)[N+](=O)[O-])(C(C(F)(F)F)(F)F)F | C10H6F7NO3
